US09120804B2
1-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile (“C63”)
Reaction of 8-(1-methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine with 1-(4-chlorophenyl)-1-cyclopropanecarbonitrile following general procedure 2 gives the title compound as a solid.

reactant | 8-(1-methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
reactant | 1-(4-chlorophenyl)-1-cyclopropanecarbonitrile | ClC1=CC=C(C=C1)C1(CC1)C#N | C10H8ClN
product | 1-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-cyclopropanecarbonitrile | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)C2(CC2)C#N | C19H16N8
